US05811459
4-[3-(2-Benzyloxyphenyl)propyl]-N-(3-methoxypropionyl)-benzeneamine
Oxalyl chloride (0.41 ml) was added to a stirred solution of 3-methoxypropanoic acid (0.45 ml) in methylene chloride (15 ml) containing 1 drop of N,N-dimethylformamide. The mixture was stirred at ambient temperature for 3 hours. A 5 ml aliquot of this reaction mixture was added dropwise to a solution of 4-[3-(2-benzyloxyphenyl)-propyl]-benzeneamine hydrochloride (0.63 g) in dichloromethane (20 ml) containing triethylamine (0.82 ml). Stirring was containued for 16 hours. The reaction mixture was evaporated to dryness and the residue was partitioned between diethyl ether and water. The diethyl ether extract was washed consecutively with aqueous 2N HCl (20 ml), saturated aqueous sodium bicarbonate (20 ml) and brine (20 ml) then dried (MgSO4). The residue obtained on removal of the solvent was subjected to flash chromatography on silica (Merck 9385) eluted with ether, to give, after crystallisation from diethyl ether-hexane mixture, 4-[3-(2-benzyloxyphenyl)propyl]-N-(3-methoxypropionyl)-benzeneamine, m.p. 65°-6° C., yield 0.58 g (80%).

reactant | Oxalyl chloride | 0.41 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 3-methoxypropanoic acid | 0.45 ml | COCCC(=O)O | C4H8O3
reactant | 4-[3-(2-benzyloxyphenyl)-propyl]-benzeneamine hydrochloride | 0.63 g | Cl.C(C1=CC=CC=C1)OC1=C(C=CC=C1)CCCC1=CC=C(C=C1)N
reactant | triethylamine | 0.82 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
catalyst | N,N-dimethylformamide | 1 drop | CN(C=O)C | C3H7NO
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 4-[3-(2-Benzyloxyphenyl)propyl]-N-(3-methoxypropionyl)-benzeneamine | C(C1=CC=CC=C1)OC1=C(C=CC=C1)CCCC1=CC=C(C=C1)NC(CCOC)=O | C26H29NO3
